US04409214
[4-Benzhydryloxycarbonyl-7-{2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido}-3-cephem-3-yl]methyltriphenyl-phosphonium iodide (syn isomer) (0.59 g) was dissolved in a mixture of methylene chloride (20 ml), water (10 ml) and 36% aqueous formaldehyde (1 ml), followed by adjusting to pH 8.0 with 20% aqueous sodium carbonate. After stirring for 3 hours at 30°-35° C., the reaction mixture was further adjusted to pH 2.0 with 10% hydrochloric acid and then extracted with methylene chloride. The extract was washed with an aqueous sodium chloride, dried over magnesium sulfate and then evaporated. The residue (0.46 g) was chromatographed on silica gel using a mixed solvent of benzene and ethyl acetate (2:1 by volume) as an eluent to obtain benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (0.14 g).

reactant | [4-Benzhydryloxycarbonyl-7-{2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido}-3-cephem-3-yl]methyltriphenyl-phosphonium iodide | 0.59 g | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(C(C=2N=C(SC2)NC=O)=NOCC(=O)OC(C)(C)C)=O)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
solvent | formaldehyde | 1 ml | C=O | CH2O
product | benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 0.14 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C34H33N5O8S2
